US08492378B2
5-(5-methyl-1,3,4-oxadiazol-2-yl)-3-[4-(methylthio)phenyl]furo[2,3-c]pyridine
In the same manner as in Example 132 and using 3-bromo-5-(5-methyl-1,3,4-oxadiazol-2-yl)furo[2,3-c]pyridine instead of 2-(3-bromo-1-benzofuran-5-yl)-5-methyl-1,3,4-oxadiazole and using [4-(methylthio)phenyl]boronic acid instead of (4-fluorophenyl)boronic acid, the title compound (yield 52%) was obtained as colorless crystals.

reactant | 3-bromo-5-(5-methyl-1,3,4-oxadiazol-2-yl)furo[2,3-c]pyridine | BrC1=COC2=CN=C(C=C21)C=2OC(=NN2)C | C10H6BrN3O2
reactant | [4-(methylthio)phenyl]boronic acid | CSC1=CC=C(C=C1)B(O)O | C7H9BO2S
product | 5-(5-methyl-1,3,4-oxadiazol-2-yl)-3-[4-(methylthio)phenyl]furo[2,3-c]pyridine | yield 52% | CC1=NN=C(O1)C=1C=C2C(=CN1)OC=C2C2=CC=C(C=C2)SC | C17H13N3O2S
